US08426420B2
(iv) 4-[(S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 1.61 g (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid in 8 ml DMF were added 1.02 g piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate, 1.7 ml N-ethylmorpholine and 1.1 g TOTU. After stirring for 12 h the solution was diluted with ethyl acetate and subsequently washed with aqueous LiCl (4%), 0.1 M HCl and saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used without further purification. Yield: 1.80 g.

reactant | (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid | 1.61 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO5Si
reactant | piperazine-1-carboxylic acid butyl ester | 1.02 g | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-ethylmorpholine | 1.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 1.1 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C35H53N3O6Si
